US08491868B2
Synthesis of 4-[4-(2-fluoro-ethoxy)-phenyl]-piperazine-1-carboxamidine
To a solution of 1-(4-(2-fluoroethoxy)phenyl)piperazine (50 mg, 0.15 mmol) and diisopropylethylamine (59 μL, 0.34 mmol) in ACN (1 mL) was added 1H-pyrazole-1-carboximidamide (25 mg, 0.17 mmol). The reaction stirred at room temperature for 1 h, monitored by LC-MS. The precipitate was then filtered and washed with ACN to obtain the desired product as a white solid (33.8 mg, 58% yield). 1H NMR (300 MHz, DMSO-d6): δ 7.55 (br s, 3H), 6.95-6.86 (m, 4H), 4.78 (m, 1H), 4.62 (m, 1H), 4.21 (m, 1H), 4.11 (m, 1H), 3.57 (dd, 4H, J=5.2, 4.9 Hz), 3.09 (dd, 4H, J=5.1, 5.0 Hz); 19F NMR (DMSO-d6): δ−222.037 (m, 1F); 13C NMR (75.5 MHz, DMSO-d6): δ 156.0, 152.2, 144.9, 119.2, 115.1, 82.2 (81.1), 67.4 (67.2), 48.9, 44.9; HRMS calcd. for C12H17FN2O: 267.16157 found 267.16146.

reactant | 1-(4-(2-fluoroethoxy)phenyl)piperazine | 0.15 mmol, 50 mg | FCCOC1=CC=C(C=C1)N1CCNCC1 | C12H17FN2O
reactant | diisopropylethylamine | 0.34 mmol, 59 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-pyrazole-1-carboximidamide | 0.17 mmol, 25 mg | N1(N=CC=C1)C(N)=N | C4H6N4
solvent | ACN | 1 mL | C(C)#N | C2H3N
product | 4-[4-(2-fluoro-ethoxy)-phenyl]-piperazine-1-carboxamidine | 33.8 mg, 58% yield | FCCOC1=CC=C(C=C1)N1CCN(CC1)C(=N)N | C13H19FN4O
